US08222266B2
Preparation 47: 4-(2,4-Dimethyl-thiazol-5-yl)-2-methylsulfanyl-pyrimidine (Prep47)
To a solution of 4-iodo-2-methylsulfanyl-pyrimidine (390 mg, 1.56 mmol), 2,4-dimethyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiazole (633 mg, 2.65 mmol added portionwise), Na2CO3 (215 mg, 2.02 mmol), triphenylphosphine (42 mg, 0.15 mmol) in nPrOH (25 ml), Pd(OAc)2 (11 mg, 0.047 mmol) was added and the mixture was refluxed for 2 hour. The solvent was evaporated under vacuum, and the crude was dissolved in DCM and washed with water. The organic phase was dried (Na2SO4) and evaporated. A second batch of this compound was prepared according to the same protocol starting from 0.39 mmol of 4-iodo-2-methylsulfanyl-pyrimidine. The residues, deriving from the two batches, were purified by flash chromatography with hexane-ethyl acetate to give the title compound (352, 76% yield).

reactant | 4-iodo-2-methylsulfanyl-pyrimidine | 1.56 mmol, 390 mg | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | 2,4-dimethyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiazole | CC=1SC(=C(N1)C)B1OC(C(O1)(C)C)(C)C | C11H18BNO2S
reactant | Na2CO3 | 2.02 mmol, 215 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 0.15 mmol, 42 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-iodo-2-methylsulfanyl-pyrimidine | 0.39 mmol | IC1=NC(=NC=C1)SC | C5H5IN2S
solvent | nPrOH | 25 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.047 mmol, 11 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(2,4-Dimethyl-thiazol-5-yl)-2-methylsulfanyl-pyrimidine | 76% yield | CC=1SC(=C(N1)C)C1=NC(=NC=C1)SC | C10H11N3S2
